.subckt oai22_x1 A1 A2 B1 B2 X VDD VSS
XMNA10 X A1 oai22_nmid VSS nmos w=1u l=100n
XMNA20 X A2 oai22_nmid VSS nmos w=1u l=100n
XMNB10 oai22_nmid B1 VSS VSS nmos w=1u l=100n
XMNB20 oai22_nmid B2 VSS VSS nmos w=1u l=100n
XMPA10 oai22_p_a A1 VDD VDD pmos w=2u l=100n
XMPA20 X A2 oai22_p_a VDD pmos w=2u l=100n
XMPB10 oai22_p_b B1 VDD VDD pmos w=2u l=100n
XMPB20 X B2 oai22_p_b VDD pmos w=2u l=100n
.ends oai22_x1
